US06506757B1
3-methoxymethoxybenzaldehyde
A solution of 3-hydroxybenzaldehyde (20 g), chloromethylmethyl ether (25 ml) and diisopropylethylamine (114 ml) intetrahydrofuran (300 ml) was stirred at room temperature overnight. To the reaction mixture was added ice water and was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium bicarbonate, water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=25:1) to give the title compound (23 g) having the following physical data.

reactant | 3-hydroxybenzaldehyde | 20 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | chloromethylmethyl ether | 25 ml | ClCOC | C2H5ClO
reactant | diisopropylethylamine | 114 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 3-methoxymethoxybenzaldehyde | 23 g | COCOC=1C=C(C=O)C=CC1 | C9H10O3
